US07741326B2
3-Benzyl-7-bromo-5-methyl-benzofuran-2-carbaldehyde (2.61 gm, 7.93 mmol) was added to a mixture of THF (10 ml) and concentrated ammonium hydroxide (80 ml). Iodine (2.2 g, 8.67 mmol) was added and the grey slurry was stirred overnight. Additional THF (20 ml), ammonium hydroxide (20 ml), and iodine (0.2 g, 0.8 mmol) were added, and the mixture stirred for 30 minutes. The reaction mixture was quenched by addition of aqueous 10% sodium thiosulfate (20 ml) and brine (20 ml). The mixture was extracted with diethy ether, and the combined organic phase was dried over magnesium sulfate, filtered and concentrated under reduced pressure to give 3-benzyl-7-bromo-5-methyl-benzofuran-2-carbonitrile (2.5 g, 97% yield). (M+H)+ 327.

reactant | 3-Benzyl-7-bromo-5-methyl-benzofuran-2-carbaldehyde | 7.93 mmol, 2.61 gm | C(C1=CC=CC=C1)C1=C(OC2=C1C=C(C=C2Br)C)C=O | C17H13BrO2
reactant | ammonium hydroxide | 80 ml | [OH-].[NH4+]
reactant | Iodine | 8.67 mmol, 2.2 g | II | I2
reactant | ammonium hydroxide | 20 ml | [OH-].[NH4+]
reactant | iodine | 0.8 mmol, 0.2 g | II | I2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-benzyl-7-bromo-5-methyl-benzofuran-2-carbonitrile | 2.5 g, 97% yield | C(C1=CC=CC=C1)C1=C(OC2=C1C=C(C=C2Br)C)C#N | C17H12BrNO
